US05243054
8a) Methyl 2-ethylthio-4-methyl-1-[2'-(5-trichloromethyl-1,2,4-oxadiazol-3-yl)biphenyl-4yl]methylthieno[3,4-d]imidazole-6-carboxylate
To an ice-cooling solution of methyl 2-ethylthio-4-methylthieno[3,4-d]imidazole-6-carboxylate (3 g) in DMF (20 ml) was added sodium hydride (60%, oil) (0.56 g), and the mixture was stirred for 10 minutes. To the ice-cooling mixture was added [2'-(5-trichloromethyl-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl bromide (6.1 g), and the mixture was stirred for two hours at room temperature. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous saline solution. The solvent was distilled off under reduced pressure, and the residue was purified by column chromatography on silica gel to afford the title compound as a pale yellow syrupy product (4.15 g, 58%).

reactant | methyl 2-ethylthio-4-methylthieno[3,4-d]imidazole-6-carboxylate | 3 g | C(C)SC=1NC=2C(N1)=C(SC2C)C(=O)OC | C10H12N2O2S2
reactant | sodium hydride | 0.56 g | [H-].[Na+]
reactant | [2'-(5-trichloromethyl-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl bromide | 6.1 g | ClC(C1=NC(=NO1)C1=C(C=CC=C1)C1=CC=C(C=C1)CBr)(Cl)Cl | C16H10BrCl3N2O
reactant | water | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | Methyl 2-ethylthio-4-methyl-1-[2'-(5-trichloromethyl-1,2,4-oxadiazol-3-yl)biphenyl-4yl]methylthieno[3,4-d]imidazole-6-carboxylate | C(C)SC1=NC=2C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NOC(=N1)C(Cl)(Cl)Cl)=C(SC2C)C(=O)OC | C26H21Cl3N4O3S2
